US09328124B2
Racemic tert-Butyl 2-benzamido-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate
1-Chloro-N,N,2-trimethylpropenylamine (409.71 μL, 3.10 mmol) is added to a stirred solution of tert-butyl 3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-pyrazin-2-yl-pyrrolidine-1-carboxylate (1.09 g, 2.38 mmol) in dichloromethane (30 mL) at room temperature. After stirring the reaction at room temperature for 3 hours a saturated aqueous solution of sodium carbonate (15 mL) is added and the mixture is stirred for 5 minutes. Dichloromethane (80 mL) is added and the layers are separated. The aqueous layer is re-extracted with dichloromethane (70 mL). The combined organic layers are dried over magnesium sulfate and concentrated under reduced pressure. The isolated product is dissolved in methanol (60 mL) and is purified by ion exchange column chromatography eluting with methanol (60 mL) then with 7 M ammonia/methanol solution (120 mL). The basic fraction is collected and the resulting product is further purified by silica gel column chromatography using a 0-5% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the title product (747 mg, 71%). ES/MS (m/e) 440 (M+1).

reactant | 1-Chloro-N,N,2-trimethylpropenylamine | 3.10 mmol, 409.71 μL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | tert-butyl 3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-pyrazin-2-yl-pyrrolidine-1-carboxylate | 2.38 mmol, 1.09 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1(CN(CC1CO)C(=O)OC(C)(C)C)C1=NC=CN=C1 | C22H27N5O4S
reactant | sodium carbonate | 15 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 80 mL | ClCCl | CH2Cl2
product | Racemic tert-Butyl 2-benzamido-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate | 747 mg, 71% | C(C1=CC=CC=C1)(=O)NC=1SCC2C(N1)(CN(C2)C(=O)OC(C)(C)C)C2=NC=CN=C2 | C22H25N5O3S
